US06291464B1
To a stirred solution of (S)-1-benzyl-3-methylpiperazine (588 mg) and triethylamine (0.47 ml) in dichloromethane (5 ml) was added acetic anhydride (0.32 ml) at 0° C. The reaction mixture was stirred at ambient temperature for 4 hours. Methanol was added to this solution and evaporated. The residue was taken up in ethyl acetate and washed with water and brine. The organic layer was dried over magnesium sulfate and concentrated. The residue was purified by column chromatography eluting with a mixture of ethyl acetate and n-hexane (2:1) to give (S)-1-acetyl-4-benzyl-2-methylpiperazine (660 mg).

reactant | (S)-1-benzyl-3-methylpiperazine | 588 mg | C(C1=CC=CC=C1)N1C[C@@H](NCC1)C | C12H18N2
reactant | triethylamine | 0.47 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.32 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Methanol | CO | CH4O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (S)-1-acetyl-4-benzyl-2-methylpiperazine | 660 mg | C(C)(=O)N1[C@H](CN(CC1)CC1=CC=CC=C1)C | C14H20N2O
